US07572808B2
B. Preparation of 7-(4-chlorophenyl)-8-(2-methoxypyrimidin-5-yl)-2-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one
To a stirring solution of 8-bromo-7-(4-chlorophenyl)-2-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one (125 mg, 0.25 mmol) in THF (4 mL) at room temperature under argon was added 2-methoxy-4-pyrimidinylboronic acid (116.0 mg, 0.75 mmol), Pd(dppf)Cl2.CH2Cl2 (23 mg, 0.025 mmol), and K3PO4 (160 mg, 0.75 mmol). The resulting suspension was purged of oxygen by bubbling with argon for 15 min, sealed in a vial under argon, heated at 90° C. for 12 h, and then cooled to room temperature. Analysis by HPLC/MS indicated that starting material was absent and one major new product had formed. The reaction mixture was diluted with EtOAc and washed once with brine. The organic layer was dried (MgSO4), filtered, and concentrated under reduced pressure. The crude product was purified by automated silica gel chromatography (eluted with EtOAc/hexanes). Pooling of the desired fractions, washing with saturated aq. NaHCO3 solution to eliminate any possible boronic acid contaminant, drying the organic phase (MgSO4), filtering and evaporation provided the title compound as a yellow solid, 147 mg, 80%. HPLC/MS: retention time=3.89 min, [M+H]+=527. 1H NMR (CDCl3): δ 8.43 (s, 2H), 7.86 (d, J=7.2 Hz, 1H), 7.72 (d, J=7.7 Hz, 1H), 7.50 (d, J=7.7 Hz, 2H), 7.13 (d, J=7.7 Hz, 2H), 6.66 (d, J=7.7 Hz, 1H), 5.25 (s, 2H), 4.01 (s, 3H), 2.76 (s, 3H).

reactant | 8-bromo-7-(4-chlorophenyl)-2-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 0.25 mmol, 125 mg | BrC=1C=2N(C=CC1C1=CC=C(C=C1)Cl)C(N(N2)CC=2C(=NC(=CC2)C(F)(F)F)C)=O | C20H13BrClF3N4O
reactant | 2-methoxy-4-pyrimidinylboronic acid | 0.75 mmol, 116.0 mg | COC1=NC=CC(=N1)B(O)O | C5H7BN2O3
reactant | CH2Cl2 | 0.025 mmol, 23 mg | C(Cl)Cl | CH2Cl2
reactant | K3PO4 | 0.75 mmol, 160 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 7-(4-chlorophenyl)-8-(2-methoxypyrimidin-5-yl)-2-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | ClC1=CC=C(C=C1)C1=C(C=2N(C=C1)C(N(N2)CC=2C(=NC(=CC2)C(F)(F)F)C)=O)C=2C=NC(=NC2)OC | C25H18ClF3N6O2
